### PR TITLE
Task 239

### LINKED ISSUE #239: tensor product L(x)[K] _ commutes with arbitrary products if L/K finite
This is the missing sorry in `DedekindDomain.ProdAdicCompletions.baseChangeEquiv` in the file `FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean`. The point is that L=K^n so L (x)[K] (\prod_i A_i) = \prod_i A_i^n. Note that it's not true that tensor products commute with infinite products in general.  Perhaps the general statement is something like: if M is a finite R-module then M (x)[R] \prod_i N_i = prod_i (M (x)[R] N_i?

### PR DESCRIPTION
**Pull request by maddycrim**
Task 239, proving bijectivity ProdAdicCompletions.baseChangeEquiv. 

Closes #239

### CODE REVIEW

**Comment by maddycrim** [comment]
There are some build errors in files I did not change any code in or use myself.

**Comment by kbuzzard** [comment]
You (perhaps unintentionally?) bump mathlib in this PR, meaning that a bunch of things break (stuff from FLT is being merged into mathlib all the time). Looks like you typed `lake update` or something? If you're a git whizz then you might want to revert commit `[dff0bab](https://github.com/ImperialCollegeLondon/FLT/pull/385/commits/dff0baba8c3c7b1d8733407abfc05e359b50fbb3)` ("fix import") because that's where you change the version of mathlib. Another possibility is that you add another commit manually changing `lake-manifest.json` back to its state before you changed it. A final possibility is that you bump mathlib on `main` or wait for someone else to bump, and then merge `main` into your branch.

tl;dr: you changed `lake-manifest.json`. Change it back.

**Comment by kbuzzard** [comment]
(PS I've just bumped mathlib in #386 as your PR demonstrated that it needed doing! I'll merge when it passes CI. Your goal is to make this PR not change lake-manifest.json at all; right now you are PRing masses of changes)

**Comment by maddycrim** [comment]
> (PS I've just bumped mathlib in #386 as your PR demonstrated that it needed doing! I'll merge when it passes CI. Your goal is to make this PR not change lake-manifest.json at all; right now you are PRing masses of changes)

I was trying to revert the changes I made by doing lake update. Should I just leave it alone for now then and then merge main once #386 is merge?

**Comment by kbuzzard** [comment]
I am not really a git expert but here is a rather lowbrow approach to fixing this PR (and it's probably the one I'd take): first `git checkout f0ad87b` (that's the first commit you made in this PR, before you changed the system file), then just literally copy the system file to somewhere outside of the repo, then checkout `5b439e7` (the last commit you made in this PR) and then just delete `lake-manifest.json` and then copy back the unbroken one and then commit it and push, and you should be fine.

**Comment by kbuzzard** [comment]
OK I merged the bump branch, let's see if this fixes things.

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+      LinearEquiv.apply_symm_apply, m']
+    rw [finsuppLeft_TensorPi_equiv_piTensor]
+    simp only [LinearEquiv.trans_apply, LinearEquiv.piCongrRight_apply]
+    rw [LinearEquiv.symm_apply_eq]
+    ext k
+    rw [finsuppScalarLeft_apply, LinearMap.rTensor_tmul, Finsupp.lapply_apply,
+      TensorProduct.lid_tmul, Finsupp.single_apply, ite_smul, zero_smul, ← Finsupp.single_apply]
+    apply congrFun
+    apply congrArg
+    clear k hm' m' m
```
Comment (pitmonticone) [inline FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:120]: These three lines can be simplified by just using `congr`

```suggestion
    congr
```

Tested it locally so it's safe to commit directly from here.

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean [hunk 2]
```diff
@@ -0,0 +1,131 @@
...
+
+lemma tensorPi_equiv_piTensor_apply (m : M) (n : ∀ i, N i) :
+    tensorPi_equiv_piTensor R M N (m ⊗ₜ n) = fun i ↦ (m ⊗ₜ n i) := by
+  unfold tensorPi_equiv_piTensor
+  simp only [finitefreeModule_tensorPiEquiv, LinearEquiv.trans_apply, congr_tmul,
+    LinearEquiv.refl_apply]
+  let m' := (Module.Free.repr R M) m
+  have hm' : (Module.Free.repr R M).symm m' = m := by simp [m']
+  rw [← hm']
+  simp only [LinearEquiv.apply_symm_apply]
```
Comment (pitmonticone) [inline FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:100]: These two lines can be shortened as follows: 

```
rw [← hm', LinearEquiv.apply_symm_apply]
```

Tested locally so it's safe to commit directly.

Comment (pitmonticone) [inline FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:100]: These two lines can be shortened as follows: 

```suggestion
rw [← hm', LinearEquiv.apply_symm_apply]
```

Tested locally so it's safe to commit directly.

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean [hunk 3]
```diff
@@ -0,0 +1,131 @@
...
+  induction m' using Finsupp.induction_linear
+  · ext
+    simp
+  · ext i
+    simp_all [add_tmul]
+  · rename_i j r
+    rw [← LinearEquiv.eq_symm_apply]
```
Comment (pitmonticone) [inline FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:106]: Here `rename` isn't necessary: 

```suggestion
  · rw [← LinearEquiv.eq_symm_apply]
```

Tested locally so it's safe to commit directly.

**Review by pitmonticone — APPROVED** [review]

**Comment by maddycrim** [comment]
Could someone mark this as "awaiting review" so it can be moved to the "In Review" column? It doesn't look like I have permission to change labels.

**Comment by pitmonticone** [comment]
@maddycrim Thank you for your PR. 

The "In Review" step is quite unnecessary in projects like this one and will be removed soon so don't worry.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 4]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
     L ⊗[K] ProdAdicCompletions A K ≃ₐ[L] ProdAdicCompletions B L :=
   AlgEquiv.ofBijective
     (SemialgHom.baseChange_of_algebraMap (ProdAdicCompletions.baseChange A K L B))
-    sorry -- #239
+    (by
+      --strategy, compose a `K`-linear iso from `L ⊗ ∏ K v` to `∏ L w`
+      -- `prod_equiv` says that `∏ L ⊗ K v ≃ ∏v∣w ∏w L w`
+      let prod_equiv := AlgEquiv.piCongrRight (fun (v: HeightOneSpectrum A)
+        ↦ adicCompletionComapAlgEquiv A K L B v)
+      -- `commute` says `L ⊗ ∏ K v ≃ ∏ L ⊗ K v`
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:556]:
```suggestion
      -- `commute` says `L ⊗ ∏ K v ≃ ∏ L ⊗ K v` as K-modules
```

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 5]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
     L ⊗[K] ProdAdicCompletions A K ≃ₐ[L] ProdAdicCompletions B L :=
   AlgEquiv.ofBijective
     (SemialgHom.baseChange_of_algebraMap (ProdAdicCompletions.baseChange A K L B))
-    sorry -- #239
+    (by
+      --strategy, compose a `K`-linear iso from `L ⊗ ∏ K v` to `∏ L w`
+      -- `prod_equiv` says that `∏ L ⊗ K v ≃ ∏v∣w ∏w L w`
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:553]:
```suggestion
      -- `prod_equiv` says that `∏ L ⊗ K v ≃ ∏v∣w ∏w L w` as L-algebras
```

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 6]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
...
+      let prod_equiv := AlgEquiv.piCongrRight (fun (v: HeightOneSpectrum A)
+        ↦ adicCompletionComapAlgEquiv A K L B v)
+      -- `commute` says `L ⊗ ∏ K v ≃ ∏ L ⊗ K v`
+      let commute := tensorPi_equiv_piTensor K L (adicCompletion K (R := A))
+      -- `restrict` map restricts `prod_equiv` to `K`-linear iso
+      let restrict := (prod_equiv.restrictScalars K).toLinearEquiv
+      -- `equiv_prod` gives a map from `L ⊗ ∏ K v ≃ ∏v∣w ∏w L w`
+      let equiv_prod := commute ≪≫ₗ restrict
+      -- not picking up instance; `inst_alg` should be a `haveI`? Fails on next `haveI`
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:562]: `inst_alg` is data so definitely shouldn't be `have` or `haveI`. But `letI` works (and saves you from having to name the instance).

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 7]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
...
+        {
+        toFun f w := f (comap A w) ⟨w, rfl⟩
+        invFun g _ w := g w.1
+        left_inv f := by
+          ext v w₁
+          simp only
+          congr
+          · exact w₁.2
+          · rw [w₁.2]
+          · exact proof_irrel_heq rfl w₁.2
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:579]:
```suggestion
        left_inv f := by
          ext v ⟨w, rfl⟩
          simp only
```
Lean can't see through the `Extension B v` because it's a def (so Lean won't unfold it) and nobody wrote any simp lemmas about it (so automation won't work either). If you just take it apart yourself then normal service is resumed.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 8]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
...
+      let baseChangeEquiv' := equiv_prod ≪≫ₗ restrict'
+      --show the maps are the same
+      have : ((SemialgHom.baseChange_of_algebraMap
+        (ProdAdicCompletions.baseChange A K L B)).restrictScalars K).toLinearMap =
+        (baseChangeEquiv').toLinearMap := by
+        apply TensorProduct.ext'
+        intro x y
+        simp only [AlgHom.toLinearMap_apply, AlgHom.coe_restrictScalars', LinearEquiv.coe_coe]
+        dsimp [SemialgHom.baseChange_of_algebraMap, baseChangeEquiv', restrict', prod_equiv',
+        equiv_prod, prod_equiv, restrict, commute]
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:597]:
```suggestion
          equiv_prod, prod_equiv, restrict, commute]
```
Some people even indent so that the e of equiv_prod is under the S of SemialgHom. Whatever the convention, I think we need some indentation just to say "the previous tactic didn't finish yet".

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 9]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
...
+        refine funext ?_
+        intro w
+        erw [tensorPi_equiv_piTensor_apply]
+        dsimp [adicCompletionComapAlgEquiv]
+        rw [tensorAdicCompletionComapAlgHom_tmul_apply, Algebra.ofId_apply, Algebra.smul_def x]
+        erw [ProdAdicCompletions.baseChange]
+        rfl
+      suffices Function.Bijective ((SemialgHom.baseChange_of_algebraMap
+        (ProdAdicCompletions.baseChange A K L B)).restrictScalars K).toLinearMap by
+        convert this
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:607]:
```suggestion
      change Function.Bijective ((SemialgHom.baseChange_of_algebraMap
        (ProdAdicCompletions.baseChange A K L B)).restrictScalars K).toLinearMap
```
`convert` scares me a bit, but `exact` works here -- they're defeq. Because `exact` works you can just use `change`.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 10]
```diff
@@ -547,7 +548,65 @@ noncomputable def ProdAdicCompletions.baseChangeEquiv :
...
+      rw [this]
+      exact baseChangeEquiv'.bijective)-- #239
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:609]:
```suggestion
      exact baseChangeEquiv'.bijective)
```

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean [hunk 11]
```diff
@@ -0,0 +1,127 @@
...
+  {M N : ι → ι' → Type*} [∀ i i', AddCommGroup (M i i')] [∀ i i', AddCommGroup (N i i')]
+  [∀i i', Module R (M i i')] [∀i i', Module R (N i i')]
+
+def directSumPi_equiv_piSum : (⨁ (i' : ι'), (∀ i, N i i')) ≃ₗ[R] (∀ i, (⨁ i', N i i')) where
+  toFun nm i := ∑ i', DirectSum.of (fun i' ↦ N i i') i' (nm i' i)
+  map_add' x y := by
+    simp only [add_apply, Pi.add_apply, map_add]
+    ext i
+    rw [Finset.sum_add_distrib]
+    rfl
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:30]:
```suggestion
    simp [Finset.sum_add_distrib]
```
I think it's classier to let `simp` finish the job rather than abusing defeq with `rfl`

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean [hunk 12]
```diff
@@ -0,0 +1,127 @@
...
+  map_smul' r nm := by
+    ext i
+    simp only [RingHom.id_apply, Pi.smul_apply]
+    rw [Finset.smul_sum, Finset.sum_congr rfl]
+    intro i' _
+    rw [← DirectSum.of_smul]
+    rfl
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:37]:
```suggestion
    rw [← DirectSum.of_smul, smul_apply, Pi.smul_apply]
```
This works -- but do you think it's worse??

**Review by kbuzzard — APPROVED** [review]
Thanks a lot! This looks great! Probably the TensorPi file should be in mathlib, but I'm happy to have it in FLT for now.

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean (hunk 11 above)
Comment (maddycrim) [reply FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:30]: Makes sense!

File: FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean (hunk 12 above)
Comment (maddycrim) [reply FLT/DedekindDomain/FiniteAdeleRing/TensorPi.lean:36]: No, I think it's preferable actually since we can see the exact transformations. Although, I don't think it makes a significant difference.
